US08703768B2
Step 2: 5-{[6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carbonyl]-amino}-2-methyl-thiazole-4-carboxylic acid
A solution of 5-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carbonyl]-amino}-2-methyl-thiazole-4-carboxylic acid ethyl ester (70 mg, 0.16 mmol) in a THF/ethanol mixture (2.5 ml; 1.5:1) was cooled to 0° C. and treated with lithium hydroxide (0.82 ml; 1N aqueous solution). After 15 min, the cooling bath was removed and the reaction mixture was stirred at 50° C. overnight. The reaction mixture was cooled to r.t. and 0.84 ml 1M HCl was added. The suspension was filtered, the solid was washed with water and THF and dried in vacuo to yield 28 mg (43%) of a yellow solid.

reactant | 5-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carbonyl]-amino}-2-methyl-thiazole-4-carboxylic acid ethyl ester | 0.16 mmol, 70 mg | C(C)OC(=O)C=1N=C(SC1NC(=O)C1=NC(=CN=C1NC=1C=NC=NC1)C1CC1)C | C19H19N7O3S
reactant | lithium hydroxide | 1N, 0.82 ml | [OH-].[Li+]
solvent | THF ethanol | 2.5 ml | C1CCOC1.C(C)O
product | 5-{[6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carbonyl]-amino}-2-methyl-thiazole-4-carboxylic acid | 28 mg, 43% | C1(CC1)C1=CN=C(C(=N1)C(=O)NC1=C(N=C(S1)C)C(=O)O)NC=1C=NC=NC1 | C17H15N7O3S
